US08217031B2
7-Methyl-5,6,7,8-tetrahydro-4H-furo[2,3-c]azepin-4-ol
A solution of 1.38 g of 7-ethoxycarbonyl-5,6,7,8-tetrahydrofuro[2,3-c]azepin-4-one prepared in the step 5 in 30 mL of dry THF was slowly added by dropping into an ice-cooled solution of 0.29 g of lithium aluminum hydride in 20 mL of dry THF. The reaction solution was gradually heated followed by heating to reflux for 30 minutes. The reaction solution was cooled, an excess of lithium aluminum hydride was decomposed by gradual addition of ice thereto and the reaction solution was subjected to extraction with ethyl acetate. The organic layer was washed with a saturated solution of sodium chloride and dried over anhydrous magnesium sulfate and the solvent was evaporated therefrom in vacuo. The residue was purified by silica gel column chromatography to give 0.45 g of the objective compound.

reactant | 7-ethoxycarbonyl-5,6,7,8-tetrahydrofuro[2,3-c]azepin-4-one | 1.38 g | C(C)OC(=O)N1CC2=C(C(CC1)=O)C=CO2 | C11H13NO4
reactant | lithium aluminum hydride | 0.29 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 7-Methyl-5,6,7,8-tetrahydro-4H-furo[2,3-c]azepin-4-ol | 0.45 g | CN1CC2=C(C(CC1)O)C=CO2 | C9H13NO2
